US07259182B2
To a solution of 1.06 g (8 mmol) 5-hydroxyindole and 2.09 g (8 mmol) triphenylphosphine in 40 ml anhydrous THF, cooled to 0° C. in ice, was added 1.0 mL (8 mmol) 4-fluorophenethylalcohol and 1.6 ml (8 mmol) diisopropylazodicarboxylate. The solution was allowed to gradually come to room temperature overnight. The solution was concentrated and the residue was chromatographed on silica using 20–25% EtOAc-hexane to afford 0.525 g 5-[2-(4-fluoro-phenyl)-ethoxy]-1H-indole as a white solid.

reactant | 5-hydroxyindole | 8 mmol, 1.06 g | OC=1C=C2C=CNC2=CC1 | C8H7NO
reactant | triphenylphosphine | 8 mmol, 2.09 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-fluorophenethylalcohol | 8 mmol, 1.0 mL | FC1=CC=C(CCO)C=C1 | C8H9FO
reactant | diisopropylazodicarboxylate | 8 mmol, 1.6 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 5-[2-(4-fluoro-phenyl)-ethoxy]-1H-indole | 0.525 g | FC1=CC=C(C=C1)CCOC=1C=C2C=CNC2=CC1 | C16H14FNO
